US05824679
N-(Dimethyloxophosphinyl-methyl)-N-{3-methyl-5-[2-(pyridin-4-ylamino)-ethoxy]-phenyl}-2-propyloxy-benzenesulfonamide
was produced analogously to example 5 in a 33% yield. Oil. MS (m/e)=532. For this 2-propyloxy-benzene-sulfonyl chloride was used in step 5c) instead of 2-methoxy-benzenesulfonyl chloride and one obtained N-(3cyanomethoxy-5-methyl-phenyl)-2-propyloxy-benzene-sulfonamide (Fp. 154°-155° C.) in a 57% yield, which was reacted to N-(dimethyloxo-phosphinyl-methyl)-N-(3-cyanomethoxy-5-methyl-phenyl)-2-propyloxy-benzene-sulfonamide (60% yield, Fp. 143°-145° C.) analogously to example 5d), which was reacted analogously to example 5e) to form N-(dimethyloxophosphinyl-methyl)-N-[3-(2-amino-ethoxy)-5-methyl-phenyl]-2-propyloxy-benzene-sulfonamide (86% yield, oil, MS (m/e)=454), which was reacted analogously to example 5f) to form a mixture of N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,5-dichloropyridazin-4-ylamino)-ethoxy]-5-methyl-phenyl}-2-propyloxy-benzenesulfonamide and N-(dimethyloxo-phosphinyl-methyl)-N-{3-[2-(3,4-dichloropyridazin-5-ylamino)-ethoxy]-5-methyl-phenyl}-2-propyloxy-benzene-sulfonamide (quant., oil, MS (m/e)=601) from which the title compound was obtained by catalytic hydrogenation analogously to example 5g).

reactant | N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,5-dichloropyridazin-4-ylamino)-ethoxy]-5-methyl-phenyl}-2-propyloxy-benzenesulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OCCC)C1=CC(=CC(=C1)C)OCCNC1=C(N=NC=C1Cl)Cl)(P(=O)=O)C | C25H29Cl2N4O6PS
reactant | N-(dimethyloxo-phosphinyl-methyl)-N-{3-[2-(3,4-dichloropyridazin-5-ylamino)-ethoxy]-5-methyl-phenyl}-2-propyloxy-benzene-sulfonamide | CP(=O)(C(N(S(=O)(=O)C1=C(C=CC=C1)OCCC)C1=CC(=CC(=C1)C)OCCNC=1C(=C(N=NC1)Cl)Cl)=O)C | C25H29Cl2N4O6PS
product | N-(Dimethyloxophosphinyl-methyl)-N-{3-methyl-5-[2-(pyridin-4-ylamino)-ethoxy]-phenyl}-2-propyloxy-benzenesulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OCCC)C1=CC(=CC(=C1)OCCNC1=CC=NC=C1)C)(P(=O)=O)C | C26H32N3O6PS
